US06054414
8. Methyl 4-ethoxy-8-methylthiochroman-7-carboxylate
13.8 g (0.058 mol) of methyl 4-hydroxy-8-methylthiochroman-7-carboxylate are heated at boiling point for 4 hours in 60 ml of ethanol with addition of 1 g of sulfuric acid. The solvent is then distilled off and the residue is taken up with water. The aqueous phase is extracted with ethyl acetate. The organic phase is washed with sodium hydrogen carbonate solution, dried and concentrated. The product is purified by chromatography.

reactant | methyl 4-hydroxy-8-methylthiochroman-7-carboxylate | 0.058 mol, 13.8 g | OC1CCSC2=C(C(=CC=C12)C(=O)OC)C | C12H14O3S
reactant | sulfuric acid | 1 g | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 60 ml | C(C)O | C2H6O
product | Methyl 4-ethoxy-8-methylthiochroman-7-carboxylate | C(C)OC1CCSC2=C(C(=CC=C12)C(=O)OC)C | C14H18O3S
